US06727264B1
N-(3-{1-[3-(2-FLUOROPHENOXY)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure G and Scheme B1 using 1-(3-chloropropoxy)-2-fluorobenzene and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 399.2 (M+H)+.

reactant | 1-(3-chloropropoxy)-2-fluorobenzene | ClCCCOC1=C(C=CC=C1)F | C9H10ClFO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[3-(2-FLUOROPHENOXY)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | FC1=C(OCCCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C=CC=C1 | C24H31FN2O2
